US05668146
To a solution of commercially available di(4-methoxybenzylidene) acetone (3.5 g, 12 mmol) in THF-MeOH (1:1,100 mL) was added platinum (IV) oxide (90 mg) and the resulting mixture was stirred at room temperature under 4 atmospheres of hydrogen for 19 hours. The catalyst was filtered and washed with THF, and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel (hexane-ethyl acetate 3:1) to provide 1,5-bis(4-methoxyphenyl)-3-pentanone (2.13 g) and the reduced side product 1,5-bis(4-methoxyphenyl)-3-pentanol (1.0 g).

reactant | di(4-methoxybenzylidene) acetone | 12 mmol, 3.5 g | COC1=CC=C(C=CC(=O)C=CC2=CC=C(C=C2)OC)C=C1 | C19H18O3
reactant | hydrogen | [H][H] | H2
solvent | THF MeOH | 1,100 mL | C1CCOC1.CO
catalyst | platinum (IV) oxide | 90 mg | [Pt](=O)=O
product | 1,5-bis(4-methoxyphenyl)-3-pentanone | 2.13 g | COC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)OC)=O | C19H22O3
